US07842688B2
b) tert-Butyl 3-(3-chlorocarbonyl-4-methylbenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
The solution of 0.474 g of tert-butyl 3-(3-carboxy-4-methylbenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 12 ml of dichloromethane is admixed at 0° C. successively with 0.132 ml of oxalyl chloride and 0.005 ml of N,N-dimethylformamide. The reaction mixture is stirred over 1 hour and then concentrated by evaporation. The residue is dissolved once more in 20 ml of dichloromethane and concentrated by evaporation. This gives the crude title compound.

reactant | tert-butyl 3-(3-carboxy-4-methylbenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.474 g | C(=O)(O)C=1C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC1C | C36H45NO8
reactant | oxalyl chloride | 0.132 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 0.005 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | tert-Butyl 3-(3-chlorocarbonyl-4-methylbenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | ClC(=O)C=1C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC1C | C36H44ClNO7
